US07851492B2
A solution of 3′-(N-aminocarbamimidoyl)-4′-[3-(3-trifluoromethyl-phenyl)-ureido]-biphenyl-4-carboxylic acid dimethylamide (322 mg) and triethylamine (212 microliters) dissolved in dichloromethane (5 ml) at -50° C. was treated with a solution of triphosgene (236 mg) in dichloromethane (5 ml). The mixture was stirred for 2.5 hrs at ambient temperature and poured into water. After adjusting to pH 7 with aq. sodium bicarbonate, the mixture was extracted with EtOAc. The organic layers were dried over Na2SO4, filtered and concentrated. Column chromatography on silica afforded 3′-(5-Oxo-4,5-dihydro-1H-[1,2,4]triazol-3-yl)-4′-[3-(3-trifluromethyl-phenyl)-ureido]-biphenyl-4-carboxylic acid dimethylamide as a white solid. Mp.=212° C.

reactant | 3′-(N-aminocarbamimidoyl)-4′-[3-(3-trifluoromethyl-phenyl)-ureido]-biphenyl-4-carboxylic acid dimethylamide | 322 mg | CN(C(=O)C1=CC=C(C=C1)C1=CC(=C(C=C1)NC(=O)NC1=CC(=CC=C1)C(F)(F)F)C(NN)=N)C | C24H23F3N6O2
reactant | triethylamine | 212 microliters | C(C)N(CC)CC | C6H15N
reactant | triphosgene | 236 mg | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | water | O | H2O
product | 3′-(5-Oxo-4,5-dihydro-1H-[1,2,4]triazol-3-yl)-4′-[3-(3-trifluromethyl-phenyl)-ureido]-biphenyl-4-carboxylic acid dimethylamide | CN(C(=O)C1=CC=C(C=C1)C1=CC(=C(C=C1)NC(=O)NC1=CC(=CC=C1)C(F)(F)F)C1=NNC(N1)=O)C | C25H21F3N6O3
